US06359134B1
N,O-Dimethyl-N-(1-tritylpiperidine-4-carbonyl)hydroxyl-amine.
To a mixture of 1-tritylpiperidine-4-carboxylic acid (7.0 g), O,N-dimethylhydroxylamine hydrochloride (2.0 g) and triethylamine (2.9 ml) in dichloromethane (70 ml) was added WSC (3.97 g), and the mixture was stirred at room temperature for 1 hour and concentrated. To the residue was added ethyl acetate, and the mixture was washed with water, dried (MgSO4) and concentrated. The resulting crystals (6.3 g) were washed with isopropylether.

reactant | 1-tritylpiperidine-4-carboxylic acid | 7.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C25H25NO2
reactant | O,N-dimethylhydroxylamine hydrochloride | 2.0 g | Cl.CONC
reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | WSC | 3.97 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | N,O-Dimethyl-N-(1-tritylpiperidine-4-carbonyl)hydroxyl-amine | CN(C(=O)C1CCN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC | C27H30N2O2
